US06329381B1
6-Amino-9-benzyl-8-bromo-2-ethoxypurine
6-Amino-9-benzyl-2-ethoxypurine (143 mg, 0.53 mmol) and bromine (0.5 ml) were dissolved in 50 ml of methylene chloride and the solution was stirred at room temperature for 5 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated and dried on sodium sulfate, filtered and evaporated in vacuo to dryness. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (42 mg, yield 23%).

reactant | 6-Amino-9-benzyl-2-ethoxypurine | 0.53 mmol, 143 mg | NC1=C2N=CN(C2=NC(=N1)OCC)CC1=CC=CC=C1 | C14H15N5O
reactant | bromine | 0.5 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-ethoxypurine | 42 mg, yield 23% | NC1=C2N=C(N(C2=NC(=N1)OCC)CC1=CC=CC=C1)Br | C14H14BrN5O
